US06653471B2
A mixture of 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (1.13 g, 3.52 mmol) and tris(dimethylamino)methane (1.02 g, 7.04 mmol) is stirred at 60° C. in a sealed tube for 4.5 h. After cooling, the thick slurry is taken up in Et2O and filtered. The solid is washed with Et2O and dried, affording 847 mg (87%) of 5-dimethylaminomethylene-4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta[b]pyrrole-3-carboxylic acid ethyl ester as a light yellow-orange solid. 1H NMR (CDCl3, 300 MHz) δ9.93 (br s, 1H), 7.58 (s, 1H), 7.12 (d, J=2.7 Hz, 1H), 4.21 (q, J=7.2 Hz, 2H), 3.06 (s, 6H), 2.68 (m, 2H), 2.47 (m, 2H), 1.80 (m, 2H), 1.26 (t, J=7.2 Hz, 3H).

reactant | 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 3.52 mmol, 1.13 g | C(C)OC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCCCC2=O | C17H23NO5
reactant | tris(dimethylamino)methane | 7.04 mmol, 1.02 g | CN(C)C(N(C)C)N(C)C | C7H19N3
solvent | Et2O | CCOCC | C4H10O
product | 5-dimethylaminomethylene-4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta[b]pyrrole-3-carboxylic acid ethyl ester | 847 mg, 87% | C(C)OC(=O)C=1C2=C(NC1)CCCC(C2=O)=CN(C)C | C15H20N2O3
